US07435823B2
Step (a) Preparation of 6-(2-chloropyrimidin-4-yloxy)-1-naphthoic acid
To a solution of 6-hydroxy-1-naphthoic acid (10.0 g, 53.1 mmol) in DMSO (60 mL) was added Cs2CO3 (51.9 g, 159.4 mmol). Bubbling was evident. The mixture was stirred at RT for 5 min, at which time 2,4-dichloropyrimidine (15.8 g, 16.3 mmol) was added. The reaction was stirred at RT and monitored by LCMS for the disappearance of starting material. EtOAc (1.0 L) was added, and the reaction was filtered to remove solid Cs2CO3. The mixture was extracted with 2N aqueous NaOH. The aqueous layer was washed with EtOAc, then acidified with 6N aqueous HCl to provide a white suspension. Filtration yielded a white solid.

reactant | 6-hydroxy-1-naphthoic acid | 53.1 mmol, 10.0 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | Cs2CO3 | 159.4 mmol, 51.9 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,4-dichloropyrimidine | 16.3 mmol, 15.8 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | EtOAc | 1.0 L | CCOC(=O)C | C4H8O2
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 6-(2-chloropyrimidin-4-yloxy)-1-naphthoic acid | ClC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H9ClN2O3
